US08466167B2
To a stirred solution of 3-(4-iodophenyl)propanoic acid (commercially available) in toluene and methanol (9:1, 0.2 M) 0° C. was added (diazomethyl)trimethylsilane (1 N solution in Et2O, 2 eq). After stirring at room temperature overnight the reaction mixture was concentrated under vacuum and the resulting crude residue was purified by chromatography (silica gel, 20-50% EtOAc in hexanes) to afford methyl 3-(4-iodophenyl)propanoate.

reactant | 3-(4-iodophenyl)propanoic acid | IC1=CC=C(C=C1)CCC(=O)O | C9H9IO2
reactant | methanol | 0.2 M | CO | CH4O
reactant | (diazomethyl)trimethylsilane | 1 N, 2 eq | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(4-iodophenyl)propanoate | IC1=CC=C(C=C1)CCC(=O)OC | C10H11IO2
